US07858781B2
(1) Step A: 4-(3,5-Difluoro-2-nitro-phenoxy)-1H-indole-2-carboxylic acid ethyl ester (150)
4-Hydroxy-1H-indole-2-carboxylic acid ethyl ester (1 g, 4.87 mmol) and 1,2,4-Trifluoro-5-nitro-benzene (0.559 ml, 4.87 mmol) are dissolved in 10 ml of dimethylformamide. After addition of potassium carbonate (1.3 g, 9.74 mmol) the mixture is stirred over night at room temperature. Then the reaction mixture is evaporated under reduced pressure, dissolved with ethyl acetate and washed with water. The organic layers are dried over sodium sulfate and evaporated.

reactant | 4-Hydroxy-1H-indole-2-carboxylic acid ethyl ester | 4.87 mmol, 1 g | C(C)OC(=O)C=1NC2=CC=CC(=C2C1)O | C11H11NO3
reactant | 1,2,4-Trifluoro-5-nitro-benzene | 4.87 mmol, 0.559 ml | FC1=C(C=C(C(=C1)[N+](=O)[O-])F)F | C6H2F3NO2
reactant | potassium carbonate | 9.74 mmol, 1.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-(3,5-Difluoro-2-nitro-phenoxy)-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=CC(=C2C1)OC1=C(C(=CC(=C1)F)F)[N+](=O)[O-] | C17H12F2N2O5
